US04908371
The starting material can be prepared as follows: 20.64 ml of n-propylamine are added to a solution of 43.24 g of 3-benzyloxy-2-methyl-4H-pyran-4-one in 1000 ml of methanol, followed by the addition of 12.0 g of sodium hydroxide in 100 ml of methanol. The reaction mixture is refluxed for 3 hours, then concentrated by evaporation. The residue is taken up in methylene chloride and the organic solution is washed with water. The phases are clarified by addition of a saturated solution of sodium chloride in water, and the organic extract is dried over sodium sulfate and concentrated by evaporation under reduced pressure. The residue is dried under a high vacuum, giving 3-benzyloxy-2-methyl-1-n-propyl-4(1H)-pyridinone as an oily product.

reactant | n-propylamine | 20.64 ml | C(CC)N | C3H9N
reactant | 3-benzyloxy-2-methyl-4H-pyran-4-one | 43.24 g | C(C1=CC=CC=C1)OC1=C(OC=CC1=O)C | C13H12O3
reactant | sodium hydroxide | 12.0 g | [OH-].[Na+]
solvent | methanol | 1000 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 3-benzyloxy-2-methyl-1-n-propyl-4(1H)-pyridinone | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCC)C | C16H19NO2
